US07405299B2
A. Preparation of (6-Bromo-imidazo[1,2-a]pyridin-2-yl)-acetic Acid Ethyl Ester
Add 4-bromo-3-oxo-butyric acid ethyl ester (12.08 g, 57.8 mmol) to a solution of 2-amino-5-bromo pyridine (5.0 g, 28.9 mmol) in acetonitrile (80 mL). Reflux for 4 days and concentrate to dryness. Purify by flash chromatography using appropriate ethyl acetate/methanol mixtures to give the subtitled compound (5.75 g, 70%) as a brown oil. TOF MS ES+ exact mass calculated for C, HI BrN2O2 (p+1): m/z=283.0082 Found: 283.0084. 1H NMR (400 MHz, DMSO-d6) δ 8.68 (m, 1H), 7.82 (s, 1H), 7.45 (d, J=10 Hz, 1H), 7.30 (dd, J=10, 2.0 Hz, 1H), 4.08 (q, J=7.0 Hz, 2H), 3.77 (s, 2H), 1.18 (t, J=7.0 Hz, 3H).

reactant | 4-bromo-3-oxo-butyric acid ethyl ester | 57.8 mmol, 12.08 g | C(C)OC(CC(CBr)=O)=O | C6H9BrO3
reactant | 2-amino-5-bromo pyridine | 28.9 mmol, 5.0 g | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | (6-Bromo-imidazo[1,2-a]pyridin-2-yl)-acetic Acid Ethyl Ester | 5.75 g, 70% | C(C)OC(CC=1N=C2N(C=C(C=C2)Br)C1)=O | C11H11BrN2O2
